US07754737B2
Step 4. (1R,2R)-2-amino-1-cyclopentyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)-amino)propan-1-ol
A solution of TsOH (36.8 mg, 0.194 mg) in 1.0 mL EtOH (1 mL) was added to (1R,2R)-2-(t-butoxycarbonylamino)-1-cyclopentyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)-amino)propan-1-ol (68.2 mg, 0.164 mmol) in 3.0 mL Et2O (3 mL). The solvent was removed under reduced pressure at 60° C. and the residue maintained at this temperature for 1 h. The residue was taken up into CH2Cl2 (50 mL), washed with 1 N aq NaOH and brine, and dried over Na2SO4. Removal of the solvent left (1R,2R)-2-amino-1-cyclopentyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-1-ol which was used without purification.

reactant | TsOH | 36.8 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | (1R,2R)-2-(t-butoxycarbonylamino)-1-cyclopentyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)-amino)propan-1-ol | 0.164 mmol, 68.2 mg | C(C)(C)(C)OC(=O)N[C@@H]([C@H](O)C1CCCC1)CN(C(=O)OCC[Si](C)(C)C)C | C20H40N2O5Si
solvent | EtOH | 1.0 mL | CCO | C2H6O
solvent | Et2O | 3.0 mL | CCOCC | C4H10O
product | (1R,2R)-2-amino-1-cyclopentyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)-amino)propan-1-ol | N[C@@H]([C@H](O)C1CCCC1)CN(C(=O)OCC[Si](C)(C)C)C | C15H32N2O3Si
